US09120749B2
{4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 2-{4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate (0.145 mmol) was TFA (2 mL) to afford the desired product (21 mg, 28% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.33 (s, 1H), 8.26 (dd, J=8.8, 1.9 Hz, 1H), 8.19 (s, 1H), 8.05 (d, J=8.8 Hz, 1H), 7.67 (d, J=8.6 Hz, 2H), 7.53 (d, J=8.6 Hz, 2H), 7.43 (s, 2H), 2.82-2.73 (m, 1H), 1.78 (s, 6H), 1.18-1.10 (m, 4H); ESI MS m/z 506 [C28H25Cl2N3O2+H]+; HPLC 98.7% (AUC), tR=11.00 min.

reactant | tert-butyl 2-{4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 0.145 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C33H33Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 21 mg, 28% | NC(C)(C)C1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C28H25Cl2N3O2
